US06448242B1
A 4N hydrogen chloride in ethyl acetate (1 ml; 4 mmol) was added to a solution in ethyl acetate (0.5 ml) of 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(dimethylamino)propane (132 mg; 0.29 mmol) synthesized by the process described in Referential Example 4, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure to obtain crude crystals of 1,3-bis(4-piperidinyl)-2-(dimethylamino)propane trihydrochoride.

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(dimethylamino)propane | 0.29 mmol, 132 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)N(C)C | C25H47N3O4
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 mmol, 1 ml | C(C)(=O)OCC | C4H8O2
product | 1,3-bis(4-piperidinyl)-2-(dimethylamino)propane trihydrochoride | Cl.Cl.Cl.N1CCC(CC1)CC(CC1CCNCC1)N(C)C | InChI=1S/C15H31N3.3ClH/c1-18(2)15(11-13-3-7-16-8-4-13)12-14-5-9-17-10-6-14;;;/h13-17H,3-12H2,1-2H3;3*1H
